US07102008B2
Sodium borohydride (0.021 g, 0.56 mmol) was added to a solution of 2,2-dimethyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-3-oxo-propionic acid ethyl ester (0.22 g, 0.56 mmol) in methanol (10 mL) under nitrogen at room temperature. The reaction was stirred for 2 h then was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give an oil. The product was purified by FCC on silica gel eluting hexane:ethyl acetate (50:50, v:v) to give 3-hydroxy-2,2-dimethyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-propionic acid ethyl ester (0.11 g, 50%) as an oil. MS found: (M+H)+=394.

reactant | Sodium borohydride | 0.56 mmol, 0.021 g | [BH4-].[Na+]
reactant | 2,2-dimethyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-3-oxo-propionic acid ethyl ester | 0.56 mmol, 0.22 g | C(C)OC(C(C(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)(C)C)=O | C24H25NO4
solvent | methanol | 10 mL | CO | CH4O
product | 3-hydroxy-2,2-dimethyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-propionic acid ethyl ester | 0.11 g, 50% | C(C)OC(C(C(C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)O)(C)C)=O | C24H27NO4
